US04197311
Preparation of Cyanomethyl α-Methylbenzyl Trithiocarbonate
To a solution of 5.6 g (50 mmol) of potassium t-butoxide in 100 ml of tetrahydrofuran is added 8.7 ml (8.94 g, 60 mmol) of 92% 1-phenylethylmercaptan while maintaining the temperature of the reaction mixture between 20° and 25° C. The resulting suspension is cooled to 18° C. and 4.35 ml (72 mmol) of carbon disulfide is added thereto. The yellow solution which forms is stirred for 0.5 hours and then 3.23 ml (50 mmol) of chloroacetonitrile is added while the temperature of the reaction mixture is maintained at about 20° C. After stirring for 0.5 hour, the mixture is concentrated in vacuo. The residue is taken up in ether and the ether solution washed with water, brine, dried with Na2SO4 and concentrated in vacuo. The residue is chromatographed on a silica gel dry-column and eluted with 1:2 CH2Cl2 -hexane. The yellow band is collected to give 11.25 g (89%) of a yellow oil, cyanomethyl α-methylbenzyl trithiocarbonate.

reactant | potassium t-butoxide | 50 mmol, 5.6 g | CC(C)([O-])C.[K+]
reactant | 1-phenylethylmercaptan | 60 mmol, 8.7 ml, 8.94 g | C1(=CC=CC=C1)C(C)S | C8H10S
reactant | carbon disulfide | 72 mmol, 4.35 ml | C(=S)=S | CS2
reactant | chloroacetonitrile | 50 mmol, 3.23 ml | ClCC#N | C2H2ClN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Cyanomethyl α-Methylbenzyl Trithiocarbonate | 11.25 g, 89% | C(SCC#N)(SC(C1=CC=CC=C1)C)=S | C11H11NS3
